US09328096B2
2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(3-fluoropyridin-2-yl)benzamide
To a degassed solution of 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (Preparation 7, 223 mg, 0.49 mmol) in dioxane (2 mL) was added 3-fluoro-2-iodopyridine (167 mg, 0.75 mmol), Pd(dppf)Cl2 (36 mg, 0.049 mmol), K2CO3 (206 mg, 1.49 mmol) and water (1 mL). The reaction was heated at 100° C. for 18 hours before cooling and concentrating in vacuo. The residue was suspended in DCM (20 mL) and filtered through a pad of celite. The filtrate was purified directly by silica gel column chromatography eluting with 0-80% EtOAc in heptanes to afford the title compound as a brown solid (100 mg, 48%).

reactant | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.49 mmol, 223 mg | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H22BClN4O3
reactant | 3-fluoro-2-iodopyridine | 0.75 mmol, 167 mg | FC=1C(=NC=CC1)I | C5H3FIN
reactant | K2CO3 | 1.49 mmol, 206 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.049 mmol, 36 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(3-fluoropyridin-2-yl)benzamide | 100 mg, 48% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C=C1)C1=NC=CC=C1F | C22H13ClFN5O
